US06492383B1
4-[4-(1H-Indol-5-ylamino)-thieno[3,2-d]pyrimidin-6-yl]-benzaldehyde
The title compound was prepared from p-formylbenzeneboronic acid and (6-bromo-thieno[3,2-d]pyrimidin-4-yl)-(1H-indol-5-yl)-amine by a procedure analogous to example 2. 1H NMR (400 MHz, DMSO) d 11.2 (s, 1H), 9.95 (s, 1H), 8.85 (s, 1H), 7.90 (m, 6H), 7.75 (s, 1H), 7.46 (m, 3H), 7.20 (d, 1H), 6.49 (s, 1H), 2.28 (s, 3H), LC-MS: 371 (MH+); HPLC RT: 4.10 minutes.

reactant | p-formylbenzeneboronic acid | C(=O)C1=CC=C(C=C1)B(O)O | C7H7BO3
reactant | (6-bromo-thieno[3,2-d]pyrimidin-4-yl)-(1H-indol-5-yl)-amine | BrC1=CC=2N=CN=C(C2S1)NC=1C=C2C=CNC2=CC1 | C14H9BrN4S
product | 4-[4-(1H-Indol-5-ylamino)-thieno[3,2-d]pyrimidin-6-yl]-benzaldehyde | N1C=CC2=CC(=CC=C12)NC=1C2=C(N=CN1)C=C(S2)C2=CC=C(C=O)C=C2 | C21H14N4OS
